US06696473B2
B. Preparation of Methyl 4-[2-(5-Acetyl-2-ethylaminophenylimino)-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-3-ylmethyl]benzoate
The title compound was prepared from intermediate 4-[2-(5-acetyl-2-ethylaminophenylimino)-4-oxothiazolidin-3-ylmethyl]benzoic acid methyl ester and 3-methyl-2-(methylthio)benzothiazol-3-ium p-toluenesulfonate in a manner similar to Example 45. 1H-NMR (CDCl3): δ 8.03 (2H, d), 7.64-7.70 (2H, m), 7.49-7.55 (3H, m), 7.36 (1H, m), 7.20 (1H, m), 7.08 (1H, d), 6.51 (1H, d), 5.24 (2H, s), 4.15 (1H, br t), 3.91 (3H, s), 3.80 (3H, s), 3.04 (2H, m), 2.51 (3H, s), 1.01 (3H, s); MS(ESI): 573 (MH+).

reactant | 4-[2-(5-acetyl-2-ethylaminophenylimino)-4-oxothiazolidin-3-ylmethyl]benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN1C(SCC1=O)=NC1=C(C=CC(=C1)C(C)=O)NCC)=O | C22H23N3O4S
reactant | 3-methyl-2-(methylthio)benzothiazol-3-ium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1=C(SC2=C1C=CC=C2)SC
product | Methyl 4-[2-(5-Acetyl-2-ethylaminophenylimino)-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-3-ylmethyl]benzoate | C(C)(=O)C=1C=CC(=C(C1)N=C1SC(C(N1CC1=CC=C(C(=O)OC)C=C1)=O)=C1SC2=C(N1C)C=CC=C2)NCC | C30H28N4O4S2
